US07943607B2
3-[(2,4,5-Trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one
A solution of sodium sulfite (153 mg, 1.21 mmol) and sodium bicarbonate (306 mg, 3.63 mmol) in water (3 mL) was treated with 2,4,5-trifluorobenzenesulfonyl chloride (280 mg, 1.21 mmol) and heated in a microwave reactor at 150° C. for 400 seconds. The resulting mixture was treated with 3-bromodihydrofuran-2(3H)-one (299 mg, 1.82 mmol) and then heated in a microwave reactor at 150° C. for 500 seconds. The mixture was cooled to 10° C. and the resulting solid filtered off and dried in vacuo to give the title compound (60 mg).

reactant | sodium sulfite | 1.21 mmol, 153 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 3.63 mmol, 306 mg | C([O-])(O)=O.[Na+]
reactant | 2,4,5-trifluorobenzenesulfonyl chloride | 1.21 mmol, 280 mg | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 3-bromodihydrofuran-2(3H)-one | 1.82 mmol, 299 mg | BrC1C(OCC1)=O | C4H5BrO2
solvent | water | 3 mL | O | H2O
product | 3-[(2,4,5-Trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one | 60 mg | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)C1C(OCC1)=O | C10H7F3O4S
